US07842713B2
2-Difluoromethyl-4-(4-methanesulfonyl-phenoxy)-2,3-dihydro-benzofuran-6-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide
The title compound was prepared in a similar manner as described for Example 33, from 4-fluorophenyl methyl sulfone (28.2 mg, 0.162 mmol) and 2-difluoromethyl-4-hydroxy-2,3-dihydro-benzofuran-6-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide (223a) (50 mg, 0.160 mmol) to give a white solid (18 mg, 24% yield). 1H NMR (400 MHz, CDCl3) δ 8.57 (s, 1 H) 7.85-8.02 (m, 2 H) 7.22-7.38 (m, 2 H) 7.02-7.21 (m, 3 H) 6.77 (d, J=2.02 Hz, 1 H) 5.94 (t, 1 H) 5.02 (br. s., 1 H) 3.78 (s, 3 H) 3.55-3.65 (m, 1 H) 3.23-3.33 (m, 1 H) 3.09 (s, 3 H); LCMS for C21H19F2N3O5S m/z 464.00 (M+H)+.

reactant | 4-fluorophenyl methyl sulfone | 0.162 mmol, 28.2 mg | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
reactant | 2-difluoromethyl-4-hydroxy-2,3-dihydro-benzofuran-6-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | 0.160 mmol, 50 mg | CN1N=C(C=C1)NC(=O)C1=CC2=C(CC(O2)C(F)F)C(=C1)O | C14H13F2N3O3
product | 2-Difluoromethyl-4-(4-methanesulfonyl-phenoxy)-2,3-dihydro-benzofuran-6-carboxylic acid (1-methyl-1H-pyrazol-3-yl)-amide | CN1N=C(C=C1)NC(=O)C1=CC2=C(CC(O2)C(F)F)C(=C1)OC1=CC=C(C=C1)S(=O)(=O)C | C21H19F2N3O5S
